US07932272B2
6Amino-thieno[2,3-b]pyridine-5-carboxylic acid methyl ester
6-Amino-thieno[2,3-b]pyridine-5-carboxylic acid (44 mg, 0.23 mmol) was dissolved in a mixture solution of methanol (1 mL) and sulfuric acid (0.5 mL), and the solution was stirred for 24 hours under reflux. An aqueous solution of saturated sodium bicarbonate was added to the reaction solution at 0° C., which was then extracted with ethyl acetate, the organic layer was washed with brine and dried over anhydrous magnesium sulfate. The solvent was evaporated in vacuo, the residue was purified by NH silica gel column chromatography (hexane:ethyl acetate=2:1), and the title compound (34 mg, 0.16 mmol, 72%) was obtained as a white solid.

reactant | 6-Amino-thieno[2,3-b]pyridine-5-carboxylic acid | 0.23 mmol, 44 mg | NC1=C(C=C2C(=N1)SC=C2)C(=O)O | C8H6N2O2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 1 mL | CO | CH4O
solvent | sulfuric acid | 0.5 mL | S(O)(O)(=O)=O | H2O4S
product | 6Amino-thieno[2,3-b]pyridine-5-carboxylic acid methyl ester | 0.16 mmol, 34 mg, 72% | COC(=O)C=1C=C2C(=NC1N)SC=C2 | C9H8N2O2S
